US08232288B2
Stage (ii): 9-(3,3-Difluoro-azetidin-1-yl)-3-azaspiro[5.5]undecane dihydrochloride
tert-Butyl 9-(3,3-difluoroazetidin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate (1.26 g, 3.66 mmol) was dissolved in hydrogen chloride in methanol (1.25 mol/l, 29 ml) and the solution was refluxed for 45 min. The solvent was removed in vacuo and the residue was dissolved in a small amount of ethanol. A solid was then precipitated out by addition of acetone. The mixture was stirred at room temperature for 10 min, diethyl ether was then added and the mixture was stirred at room temperature for a further 30 min. The precipitate formed was filtered off with suction, washed with diethyl ether and dried in vacuo. Yield: 1.1 g (95%)

reactant | tert-Butyl 9-(3,3-difluoroazetidin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate | 3.66 mmol, 1.26 g | FC1(CN(C1)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)F | C18H30F2N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 1.25 mol/l, 29 ml | CO | CH4O
product | 9-(3,3-Difluoro-azetidin-1-yl)-3-azaspiro[5.5]undecane dihydrochloride | Cl.Cl.FC1(CN(C1)C1CCC2(CCNCC2)CC1)F | InChI=1S/C13H22F2N2.2ClH/c14-13(15)9-17(10-13)11-1-3-12(4-2-11)5-7-16-8-6-12;;/h11,16H,1-10H2;2*1H
